US03974127
In a 500 -milliliter, round-bottomed flask are placed 11.4 grams of α, α'-dibromo-p-xylene, 25.2 grams of 2, 2, 6, 6-tetramethyl-4-hydroxypiperidine and 120 milliliters of diglyme (dimethyl ether of diethylene glycol). The contents are refluxed for 19 hours with vigorous stirring and filtered hot. The diglyme from the filtrate is removed by distillation. The remaining solid is washed with methanol. The solid is then washed repeatedly with ether. The 1, 1'-(p-phenylenedimethylene) bis(2, 2, 6, 6-tetramethyl-4-piperidinol) is obtained as a white crystalline solid, is dried in a vacuum oven and has a melting point of 237°-239°C.

reactant | α, α'-dibromo-p-xylene | 11.4 grams | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | 2, 2, 6, 6-tetramethyl-4-hydroxypiperidine | 25.2 grams | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
solvent | diglyme | 120 milliliters | COCCOCCOC | C6H14O3
product | 1'-(p-phenylenedimethylene) bis(2, 2, 6, 6-tetramethyl-4-piperidinol) | C1(=CC=C(C=C1)CN1C(CC(CC1(C)C)O)(C)C)CN1C(CC(CC1(C)C)O)(C)C | C26H44N2O2
